US06417183B1
R(−) N-(1,2,3,4-Tetrahydro-1-naphthalenyl)homopiperazine
R(−) N-(1,2,3,4-tetrahydro-1-naphthalenyl)homopiperazine was obtained as the second material to elute on subjecting racemic material (5.3 g), prepared as in Example 2, to preparative Chiral Pak AD HPLC resolution using a hexane/ethanol mixture with modification with diethylamine. The enantiomeric purity was determined on an analytical scale using hexane:ethanol:diethylamine (90:5:.05, v/v) and detection at 220 nm. The solution containing this enantiomer was concentrated using a rotary evaporator to give the title compound (2.65 g), [α]D22−94° (c=0.64, methanol); 98.5% ee.

reactant | diethylamine | C(C)NCC | C4H11N
reactant | hexane ethanol diethylamine | CCCCCC.C(C)O.C(C)NCC
reactant | hexane ethanol | CCCCCC.C(C)O
product | N-(1,2,3,4-Tetrahydro-1-naphthalenyl)homopiperazine | 2.65 g | C1(CCCC2=CC=CC=C12)N1CCNCCC1 | C15H22N2
